US07169789B2
N-Butyl-N′-{2-chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}-N-methylurea
2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-aniline 80 mg) was dissolved in chloroform (3 ml) and triethylamine (0.3 ml), and a solution of triphosgene (72 mg) in chloroform was then added to the solution. The mixture was stirred at room temperature for 15 min. Next, N-methylbutylamine (43 μl) was added to the reaction solution, and the mixture was stirred at room temperature for additional 30 min. Methanol was added to the reaction solution, and the mixture was purified by HPLC by development with chloroform/methanol. The solvent was removed by distillation, and the resultant crystal was washed with hexane to give 26 mg (yield 24%) of the title compound.

reactant | 2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-aniline | 80 mg | ClC1=C(N)C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC | C16H14ClN3O3
reactant | triphosgene | 72 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | N-methylbutylamine | 43 μl | CNCCCC | C5H13N
reactant | Methanol | CO | CH4O
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
product | N-Butyl-N′-{2-chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}-N-methylurea | 26 mg, yield 24% | C(CCC)N(C(=O)NC1=C(C=C(C=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC)Cl)C | C22H25ClN4O4
